US05281593
ii) 6-Formyl indole
To a solution of 6-hydroxymethyl indole (4.9 g, 33.3 mmol) in dry dichloromethane (200 ml) was added a solution of pyridinium dichromate (15.97 g, 42.5 mmol) in dry dichloromethane (100 ml) and the suspension stirred at room temperature for 5 hours. The suspension was diluted with diethyl ether and filtered through a pad of silica to give an orange solution, which was evaporated in vacuo. The crude solid was purified by flash chromatography on silica, eluting with 50% diethyl ether in hexane, to yield a pale orange solid. Recrystallisation from diethyl ether/40°-60° C. petrol gave a pale orange crystalline solid, m.p. 126°-128° C.

reactant | 6-hydroxymethyl indole | 33.3 mmol, 4.9 g | OCC1=CC=C2C=CNC2=C1 | C9H9NO
reactant | pyridinium dichromate | 42.5 mmol, 15.97 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-Formyl indole | C(=O)C1=CC=C2C=CNC2=C1 | C9H7NO
